US04472433
A mixture of 2-oxo-7-benzyloxyindoline (2.15 g.), sodium hydroxide (0.84 g.), dioxane (20 ml.) and water (20 ml.) was refluxed under heating for 72 hours with stirring. After cooling, the reaction mixture was evaporated under reduced pressure. The residue was dissolved in water and the solution was washed with ethyl acetate. Diethyl ether was added to the solution and adjusted to pH 4 to 5 with 5% sulfuric acid. The diethyl ether layer was separated, washed with water, dried over magnesium sulfate and then evaporated under reduced pressure. The residue was crystallized with a mixture of ethyl acetate and n-hexane to give 2-(2-amino-3-benzyloxyphenyl)acetic acid (2.2 g.).

reactant | 2-oxo-7-benzyloxyindoline | 2.15 g | O=C1NC2=C(C=CC=C2C1)OCC1=CC=CC=C1 | C15H13NO2
reactant | sodium hydroxide | 0.84 g | [OH-].[Na+]
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
product | 2-(2-amino-3-benzyloxyphenyl)acetic acid | 2.2 g | NC1=C(C=CC=C1OCC1=CC=CC=C1)CC(=O)O | C15H15NO3
